US07989462B2
(3,4-Dimethoxy-phenyl)-(quinazolin-4-yl)-amine
The title compound was prepared from 4-chloro-quinazoline (82.3 mg, 0.5 mmol), 3,4-dimethoxy-aniline (76.6 mg, 0.5 mmol) and sodium acetate (49.2 mg, 0.6 mmol) similar to example 20 to give 138 mg (92.5%) of off white solids. 1H NMR (CDCl3): 8.74 (s, 1H), 7.91 (t, J=8.7 Hz, 2H), 7.57 (t, J=8.1 Hz, 1H), 7.57 (t, J=8.1 Hz, 1H), 7.45 (s, 1H), 7.38 (d, J=2.4 Hz, 1H), 7.16-7.13 (m, 1H), 6.92 (d, J=8.4 Hz, 1H), 3.93-3.91 (m, 6H).

reactant | 4-chloro-quinazoline | 0.5 mmol, 82.3 mg | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | 3,4-dimethoxy-aniline | 0.5 mmol, 76.6 mg | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | sodium acetate | 0.6 mmol, 49.2 mg | C(C)(=O)[O-].[Na+]
product | (3,4-Dimethoxy-phenyl)-(quinazolin-4-yl)-amine | COC=1C=C(C=CC1OC)NC1=NC=NC2=CC=CC=C12 | C16H15N3O2
